US07829568B2
2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid 2-ethoxy-benzyl amide
2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid (130 mg, 0.45 mmol), EDCI (72.9 mg, 0.38 mmol, 1.0 eq.) and HOAt (4.7 mg, 0.035 mmol, 0.1 eq.) were dissolved in DCM (3.5 mL). ortho-phenetidine (51.5 μL, 0.35 mmol) was added thereto and the solution was stirred for 16 hours at room temperature. The solvent was removed under vacuum, EtOAc (30 mL) was added thereto and the organic phase was washed a plurality of times with a 0.5 M solution of KHSO4 in water (30 mL) and saturated aqueous NaHCO3 solution (35 mL). The aqueous phases were shaken out a plurality of times with ethyl acetate. The combined organic phases were washed with saturated aqueous NaCl solution (40 mL) and dried over sodium sulphate, and the solvent was removed under vacuum. The untreated product was purified by column chromatography (SiO2, DCM→DCM/MeOH 98/2). 130 mg (73%) of the desired product 2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid were obtained.

reactant | 2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid | 0.45 mmol, 130 mg | C(CCC)N(C=1N=C2N(CCCC2)C1C(=O)O)C(C1=CC(=CC=C1)Cl)=O | C19H22ClN3O3
reactant | EDCI | 0.38 mmol, 72.9 mg, 1.0 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.035 mmol, 4.7 mg, 0.1 eq. | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | ortho-phenetidine | 0.35 mmol, 51.5 μL | CCOC=1C(=CC=CC1)N | C8H11NO
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
product | 2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid 2-ethoxy-benzyl amide | 130 mg, 73% | C(C)OC1=C(CNC(=O)C2=C(N=C3N2CCCC3)N(C(C3=CC(=CC=C3)Cl)=O)CCCC)C=CC=C1 | C28H33ClN4O3
